US06878728B1
(3R,3aS,6aR)-Hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxy-1-[4-(4-{[(methylamino)carbonyl]oxy}butoxy)benzyl]propylcarbamate (318)
(3R,3aS,6aR)-Hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxy-1-[4-(4-hydroxybutoxy)benzyl]propylcarbamate was treated with methyl isocyanate/dichloromethane as described earlier to afford the title compound as a solid foam. 1H NMR (DMSO-d6): δ 0.78 (3H, d), 0.82 (3H, d), 1.2 (1H, dd), 1.4 (1H, quintuplet), 1.6-1.8 (4H, m), 1.9-2.0 (1H, m), 2.38 (1H, t), 2.5 (3H, d), 2.7-2.8 (3H, m), 2.9 (1H, d), 2.98 (1H, dd), 3.3-3.4 (1H, m), 3.4-3.5 (1H, m), 3.5-3.6 (3H, m), 3.7 (1H, t), 3.8 (1H, dd), 3.9 (2H, t), 3.95 (2H, t), 4.8 (1H, dt), 5.0 (1H, br s), 5.5 (1H, d), 6.18 (2H, s), 6.78 (2H, d), 6.9 (1H, br s), 7.0-7.1 (3H, m), 7.2 (1H, d), 7.25 (1H, s), 7.3 (1H, d); MS: 744 (M+23); C34H47N3O12S.

reactant | (3R,3aS,6aR)-Hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxy-1-[4-(4-hydroxybutoxy)benzyl]propylcarbamate | O1COC2=C1C=CC(=C2)S(=O)(=O)N(C[C@H]([C@H](CC2=CC=C(C=C2)OCCCCO)NC(O[C@H]2CO[C@H]1OCC[C@H]12)=O)O)CC(C)C | C32H44N2O11S
reactant | methyl isocyanate dichloromethane | CN=C=O.ClCCl
product | (3R,3aS,6aR)-Hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxy-1-[4-(4-{[(methylamino)carbonyl]oxy}butoxy)benzyl]propylcarbamate | O1COC2=C1C=CC(=C2)S(=O)(=O)N(C[C@H]([C@H](CC2=CC=C(C=C2)OCCCCOC(=O)NC)NC(O[C@H]2CO[C@H]1OCC[C@H]12)=O)O)CC(C)C | C34H47N3O12S
